US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 3-(1-imidazolyl)-benzaldehyde dimethyl acetal in an analogous manner to that described in Example 1 gave 3,4,6,7,9,10-hexahydro-9-[3-(1-imidazolyl)-phenyl]-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from methanol/water gave a yellow crystalline solid of melting point 286-288° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-(1-imidazolyl)-benzaldehyde dimethyl acetal | COC(C1=CC(=CC=C1)N1C=NC=C1)OC | C12H14N2O2
product | 3,4,6,7,9,10-hexahydro-9-[3-(1-imidazolyl)-phenyl]-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | N1(C=NC=C1)C=1C=C(C=CC1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C26H29N3O2
